US08349833B2
Dimethylaminopyridine (DMAP) (2.08 g, 16.9 mmol) in acetonitrile (20 mL) was added drop wise to 5-azaindole (2.0 g, 16.9 mmol) in acetonitrile (70 mL) at room temperature. After stirring for 2 hours, di-tert-butyldicarbonate (3.68 g, 16.9 mmol) was added in portion at same temperature. After 2.5 hours, the solvent was evaporated under reduced pressure and the residue (5.4 g) was purified by column chromatography (silica gel, ethyl acetate/heptane 1/10 to 1/2) to provide pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (2.72 g, 92.4% yield) as a bright yellow oil. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 8.87 (s, 1H), 8.48 (d, 1H, J=5.7 Hz), 7.98 (d, 1H, J=5.1 Hz), 7.60 (d, 1H, J=3.3 Hz), 6.63 (d, 1H, J=3.0 Hz), 1.68 (s, 9H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 148.82, 143.75, 143.51, 139.50, 126.69, 109.83, 105.46, 84.60, 28.05.

reactant | Dimethylaminopyridine | 16.9 mmol, 2.08 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 5-azaindole | 16.9 mmol, 2.0 g | N1C=CC2=CN=CC=C12 | C7H6N2
reactant | di-tert-butyldicarbonate | 16.9 mmol, 3.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 2.72 g, 92.4% yield | C(C)(C)(C)OC(=O)N1C=CC=2C=NC=CC21 | C12H14N2O2
